US07041696B2
Preparation of 2-allyloxycarbonylamino-succinic acid 4-tert-butyl ester (100):
L-aspartic acid □-t-butyl ester (30.3 g, 0.160 mol) is dissolved in 100 mL THF and 300 mL H2O. Under cooling (ice bath) and with stirring, allyl chloroformate (38.8 mL, 44.1 g, 0.365 mol) and sodium bicarbonate (60.1 g, 0.715 mol) are added in one portion. After the consumption of the starting material, the mixture is acidified to a pH of 2 using 6 N HCl and then extracted with ether (3×400 mL). The ether layer is dried with MgSO4 and concentrated under reduced pressure. The residue is purified over silica (CH2Cl2/MeOH/acetic acid 3:97:0.1) to furnish 40.7 g (90% yield) of the desired product as a clear oil. 1H-NMR (300 MHz, CDCl3): δ 1.46 (s, 9H), 2.76–3.03 (ABX, J=59.3, 17.2, 4.4, 2H), 4.60–4.66 (br m, 3H), 5.30 (m, 2H), 5.82–5.84 (d, J=8.4), 5.87–6.00 (m, 1H), 10.94 (br s, 1H); MS (ESI): m/e=274.08 (M+H).

reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | allyl chloroformate | 0.365 mol, 38.8 mL, 44.1 g | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium bicarbonate | 0.715 mol, 60.1 g | C([O-])(O)=O.[Na+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 300 mL | O | H2O
product | 2-allyloxycarbonylamino-succinic acid 4-tert-butyl ester | 40.7 g, 90% yield | C(C)(C)(C)OC(CC(C(=O)O)NC(=O)OCC=C)=O | C12H19NO6
